** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_6

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_6 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=9e-6 W=12e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=66e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=421e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=330e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=66e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=9e-6 W=36e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=32e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=411e-6
mNormalTransistorPmos13 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=421e-6
mNormalTransistorPmos14 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=586e-6
mNormalTransistorPmos15 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=586e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=273e-6
mNormalTransistorPmos17 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_6

** Expected Performance Values: 
** Gain: 139 dB
** Power consumption: 7.73501 mW
** Area: 14976 (mu_m)^2
** Transit frequency: 33.6171 MHz
** Transit frequency with error factor: 33.579 MHz
** Slew rate: 51.8383 V/mu_s
** Phase margin: 72.7657°
** CMRR: 97 dB
** negPSRR: 96 dB
** posPSRR: 106 dB
** VoutMax: 3.65001 V
** VoutMin: 0.350001 V
** VcmMax: 4.03001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 43.7211 muA
** NormalTransistorPmos: -14.7859 muA
** NormalTransistorPmos: -187.987 muA
** DiodeTransistorNmos: 63.0751 muA
** NormalTransistorNmos: 63.0751 muA
** NormalTransistorPmos: -126.15 muA
** NormalTransistorPmos: -63.0759 muA
** NormalTransistorPmos: -63.0759 muA
** NormalTransistorNmos: 1154.32 muA
** NormalTransistorNmos: 1154.32 muA
** NormalTransistorPmos: -1154.31 muA
** DiodeTransistorPmos: -1154.32 muA
** DiodeTransistorNmos: 14.7851 muA
** DiodeTransistorNmos: 187.988 muA
** DiodeTransistorPmos: -43.7219 muA
** NormalTransistorPmos: -43.7229 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX0: 0.766001  V
** inputVoltageBiasXXnXX1: 0.758001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 3.08601  V
** outSourceVoltageBiasXXpXX1: 4.04301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.30901  V
** innerTransconductance: 0.150001  V
** inner: 4.04001  V


.END