** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=8e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=5e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=513e-6
mNormalTransistorNmos4 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=6e-6 W=199e-6
mNormalTransistorNmos5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=192e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=192e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=6e-6 W=199e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=6e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=4e-6 W=482e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=481e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=481e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=62e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_1

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 5.67801 mW
** Area: 14975 (mu_m)^2
** Transit frequency: 35.8911 MHz
** Transit frequency with error factor: 35.8652 MHz
** Slew rate: 51.1493 V/mu_s
** Phase margin: 72.1927°
** CMRR: 101 dB
** negPSRR: 105 dB
** posPSRR: 230 dB
** VoutMax: 4.33001 V
** VoutMin: 0.150001 V
** VcmMax: 3.54001 V
** VcmMin: -0.389999 V


** Expected Currents: 
** NormalTransistorPmos: -12.1169 muA
** NormalTransistorNmos: 63.1721 muA
** NormalTransistorNmos: 63.1731 muA
** NormalTransistorNmos: 63.1741 muA
** NormalTransistorNmos: 63.1731 muA
** NormalTransistorPmos: -126.344 muA
** NormalTransistorPmos: -63.1729 muA
** NormalTransistorPmos: -63.1729 muA
** NormalTransistorNmos: 977.087 muA
** NormalTransistorPmos: -977.086 muA
** DiodeTransistorNmos: 12.1161 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.76401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.731001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.581001  V
** innerTransistorStack1Load1: 0.176001  V
** innerTransistorStack2Load1: 0.176001  V
** sourceTransconductance: 3.29001  V


.END