** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=11e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=60e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=18e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=63e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=381e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=592e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=60e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=152e-6
mNormalTransistorPmos9 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=381e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=165e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
mNormalTransistorPmos12 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=165e-6
mNormalTransistorPmos13 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=406e-6
mNormalTransistorPmos14 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=63e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_5

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 7.90701 mW
** Area: 4907 (mu_m)^2
** Transit frequency: 78.5561 MHz
** Transit frequency with error factor: 78.3878 MHz
** Slew rate: 90.1594 V/mu_s
** Phase margin: 57.8688°
** CMRR: 99 dB
** negPSRR: 101 dB
** posPSRR: 227 dB
** VoutMax: 3.62001 V
** VoutMin: 0.150001 V
** VcmMax: 3.93001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 190.227 muA
** NormalTransistorPmos: -14.0139 muA
** DiodeTransistorNmos: 114.371 muA
** NormalTransistorNmos: 114.371 muA
** NormalTransistorPmos: -228.736 muA
** NormalTransistorPmos: -114.368 muA
** NormalTransistorPmos: -114.368 muA
** NormalTransistorNmos: 1128.43 muA
** NormalTransistorPmos: -1128.42 muA
** DiodeTransistorPmos: -1128.42 muA
** DiodeTransistorNmos: 14.0131 muA
** DiodeTransistorPmos: -190.226 muA
** NormalTransistorPmos: -190.227 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.13001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 3.05401  V
** outSourceVoltageBiasXXpXX1: 4.02701  V
** outVoltageBiasXXnXX0: 0.791001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.26001  V
** inner: 4.02701  V


.END