** Name: SimpleTwoStageOpAmp_SimpleOpAmp2_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp2_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=16e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=6e-6 W=230e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=39e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=3e-6 W=13e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=549e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=441e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos4 L=1e-6 W=38e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=36e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=6e-6 W=230e-6
mNormalTransistorPmos10 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=3e-6 W=549e-6
mNormalTransistorPmos11 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=343e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=68e-6
mNormalTransistorPmos13 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=343e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=563e-6
mNormalTransistorPmos15 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=13e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp2_5

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 9.49501 mW
** Area: 14870 (mu_m)^2
** Transit frequency: 63.4051 MHz
** Transit frequency with error factor: 63.3416 MHz
** Slew rate: 61.7275 V/mu_s
** Phase margin: 55.577°
** CMRR: 106 dB
** negPSRR: 102 dB
** posPSRR: 106 dB
** VoutMax: 3 V
** VoutMin: 0.300001 V
** VcmMax: 3.92001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 39.6341 muA
** NormalTransistorPmos: -17.7729 muA
** NormalTransistorNmos: 73.5761 muA
** NormalTransistorNmos: 73.5761 muA
** DiodeTransistorNmos: 73.5761 muA
** NormalTransistorPmos: -147.152 muA
** NormalTransistorPmos: -73.5769 muA
** NormalTransistorPmos: -73.5769 muA
** NormalTransistorNmos: 1674.36 muA
** NormalTransistorPmos: -1674.35 muA
** DiodeTransistorPmos: -1674.35 muA
** DiodeTransistorNmos: 17.7721 muA
** DiodeTransistorPmos: -39.6349 muA
** NormalTransistorPmos: -39.6359 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.07501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.706001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXpXX1: 3.71701  V
** outVoltageBiasXXnXX0: 0.728001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** out1: 1.11101  V
** sourceTransconductance: 3.21901  V
** inner: 3.71201  V


.END