** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=84e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=26e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=89e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=3e-6 W=53e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=343e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=529e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=5e-6 W=447e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=94e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=89e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=217e-6
mNormalTransistorPmos12 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=3e-6 W=343e-6
mNormalTransistorPmos13 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=406e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=75e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=406e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=570e-6
mNormalTransistorPmos17 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=53e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_5

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 8.51001 mW
** Area: 10705 (mu_m)^2
** Transit frequency: 69.3251 MHz
** Transit frequency with error factor: 69.2003 MHz
** Slew rate: 80.6737 V/mu_s
** Phase margin: 57.8688°
** CMRR: 100 dB
** negPSRR: 102 dB
** posPSRR: 229 dB
** VoutMax: 3.02001 V
** VoutMin: 0.150001 V
** VcmMax: 3.95001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 158.946 muA
** NormalTransistorPmos: -44.6619 muA
** NormalTransistorPmos: -129.283 muA
** DiodeTransistorNmos: 170.404 muA
** NormalTransistorNmos: 170.405 muA
** NormalTransistorNmos: 170.404 muA
** NormalTransistorPmos: -340.804 muA
** NormalTransistorPmos: -170.402 muA
** NormalTransistorPmos: -170.402 muA
** NormalTransistorNmos: 1008.31 muA
** NormalTransistorPmos: -1008.3 muA
** DiodeTransistorPmos: -1008.3 muA
** DiodeTransistorNmos: 44.6611 muA
** DiodeTransistorNmos: 129.284 muA
** DiodeTransistorPmos: -158.945 muA
** NormalTransistorPmos: -158.946 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.25401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.46001  V
** outSourceVoltageBiasXXpXX1: 3.73001  V
** outVoltageBiasXXnXX0: 0.780001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.36901  V
** inner: 3.73001  V


.END